US08110585B2
cis-2-{[2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}-1H-isoindole-1,3(2H)-dione
Under argon gas atmosphere, to a solution of cis-[2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methanol (130 mg, 0.643 mmol) in tetrahydrofuran (6.5 mL) were added a solution (40%, 0.351 mL, 0.771 mmol) of diethyl azodicarboxylate in toluene, triphenylphosphine (219 mg, 0.835 mmol) and phthalimide (123 mg, 0.836 mmol), and the mixture was stirred at room temperature for 5 hr. To the reaction mixture was added a solution (40%, 0.176 mL, 0.386 mmol) of diethyl azodicarboxylate in toluene, triphenylphosphine (110 mg, 0.419 mmol) and phthalimide (61.5 mg, 0.418 mmol) were added, and the mixture was stirred at room temperature for 30 min. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=20/80→50/50) to give the title compound as a crudely purified product.

reactant | cis-[2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methanol | 0.643 mmol, 130 mg | CN1N=C2C=CC=C(C2=C1)[C@@H]1[C@@H](C1)CO | C12H14N2O
reactant | diethyl azodicarboxylate | 0.771 mmol, 0.351 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.835 mmol, 219 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 0.836 mmol, 123 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylate | 0.386 mmol, 0.176 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.419 mmol, 110 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 0.418 mmol, 61.5 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | tetrahydrofuran | 6.5 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | cis-2-{[2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}-1H-isoindole-1,3(2H)-dione | CN1N=C2C=CC=C(C2=C1)[C@@H]1[C@@H](C1)CN1C(C2=CC=CC=C2C1=O)=O | C20H17N3O2
